US05034544
2,3-Bis-(3,4-Dimethoxyphenyl)-3-Chloropropenal
Desoxyveratroin (2.5 g, 0.0079 moles) was dissolved in a solution of tetrahydrofuran (20 ml) and a preformed solution of dimethylformamide (12 ml) and phophorous oxychloride (7 ml) was added with stirring over a period of 20 minutes to form a reaction mixture. The reaction mixture was kept below 30° by ice bath cooling and stirred for 5 hrs. The resulting slurry was then poured into water (200 ml) and stirred for 18 hrs. The crude product (2.9 g, mp. 162°-166°) was recrystallized from methanol-benzene to yield 1.7 g (59%) of the title compound as yellow needles, mp. 183°-184°. IR(mull): 1665, 1589 cm-1 ; 1H-NMR (CDCl3): δ3.93 (s, 12H), 7.0 (m, 6H), 9.8 (s, 1H); mass spectrum: M+ 364 (100%).

reactant | Desoxyveratroin | 0.0079 moles, 2.5 g | COC1=C(C=C(C=C1)CC(=O)C2=CC(=C(C=C2)OC)OC)OC | C18H20O5
reactant | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
reactant | oxychloride | 7 ml | O(Cl)Cl | Cl2O
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2,3-Bis-(3,4-Dimethoxyphenyl)-3-Chloropropenal | 1.7 g, 59% | COC=1C=C(C=CC1OC)C(C=O)=C(Cl)C1=CC(=C(C=C1)OC)OC | C19H19ClO5
